US08236826B2
Production of ethyl 3-{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]-3-methoxyphenyl}propionate
Under ice cooling, to a solution of ethyl 3-(4-(5-aminopyridin-2-yloxy)-3-methoxyphenyl)propionate (1.43 g, 4.5 mmol) in dichloromethane (30 mL) was added pyridine (0.44 mL, 5.4 mmol), and then 3,4-dichlorobenzoyl chloride (0.99 g, 4.7 mmol). The resulting solution was stirred for 1 hour under ice cooling, and then for 10 hours at room temperature. To the resulting reaction solution was added 10% hydrochloric acid, and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated. To the residue was added diethyl ether, and stirred. The precipitates were collected by filtration. After washing with water and diethyl ether, the precipitates were air dried at 60° C., to thereby yield 0.52 g of the title compound.

reactant | ethyl 3-(4-(5-aminopyridin-2-yloxy)-3-methoxyphenyl)propionate | 4.5 mmol, 1.43 g | NC=1C=CC(=NC1)OC1=C(C=C(C=C1)CCC(=O)OCC)OC | C17H20N2O4
reactant | pyridine | 5.4 mmol, 0.44 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzoyl chloride | 4.7 mmol, 0.99 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl 3-{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]-3-methoxyphenyl}propionate | ClC=1C=C(C(=O)NC=2C=CC(=NC2)OC2=C(C=C(C=C2)CCC(=O)OCC)OC)C=CC1Cl | C24H22Cl2N2O5
